US08258158B2
To a solution of 1-fluoro-4-nitro-benzene (2.82 g) and 1,1,1-trifluoro-2-methyl-propan-2-ol (2.3 ml) in DMF (90 ml) under an argon atmosphere was added under ice cooling NaH (0.914 g, 55% suspension in oil) and the mixture was stirred for 3 h at RT. It was then partitioned between diethyl ether and water, the layers were separated, dried over Na2SO4 and the solvent was evaporated off to give 1-nitro-4-(2,2,2-trifluoro-1,1-dimethyl-ethoxy)-benzene as a brown oil (4.9 g) that was used in the next step without further purification.

reactant | 1-fluoro-4-nitro-benzene | 2.82 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 1,1,1-trifluoro-2-methyl-propan-2-ol | 2.3 ml | FC(C(C)(O)C)(F)F | C4H7F3O
reactant | NaH | 0.914 g | [H-].[Na+]
solvent | DMF | 90 ml | CN(C)C=O | C3H7NO
product | 1-nitro-4-(2,2,2-trifluoro-1,1-dimethyl-ethoxy)-benzene | 4.9 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(C(F)(F)F)(C)C | C10H10F3NO3
